US06469220B2
A Grignard reagent was prepared from 95.5 g of 1-chloro-4-(5-norbornen-2-yl)butane, 13.3 g of magnesium, and 200 ml of anhydrous tetrahydrofuran. Then, under an atmosphere of nitrogen, 35.5 g of acetone was added thereto at 40° C. over a period of 1 hour. After this mixture was stirred for 1 hour, the reaction product was hydrolyzed by the addition of an aqueous solution of ammonium chloride, followed by separation into aqueous and organic phases. Subsequently, the organic phase was washed with water and a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by vacuum distillation to obtain 90.5 g of 2-methyl-6-(5-norbornen-2-yl)hexan-2-ol (boiling point: 93-98° C./66 Pa; yield: 87%).

reactant | 1-chloro-4-(5-norbornen-2-yl)butane | 95.5 g | ClCCCCC1C2C=CC(C1)C2 | C11H17Cl
reactant | magnesium | 13.3 g | [Mg] | Mg
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | acetone | 35.5 g | CC(=O)C | C3H6O
product | 2-methyl-6-(5-norbornen-2-yl)hexan-2-ol | 90.5 g, yield: 87% | CC(C)(CCCCC1C2C=CC(C1)C2)O | C14H24O
